US08541429B2
Step 3. Ethyl (3-methoxy-5,5-dimethyl-2-oxocyclohex-3-en-1-yl)(oxo)acetate
A solution of 2-methoxy-4,4-dimethyl-cyclohex-2-enone (12.5 g, 81.1 mmol) and diethyl oxalate (12.1 mL, 89.2 mmol) in ethyl ether was treated with a 1M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran under argon atmosphere. The reaction was stirred at room temperature for 2 hours, poured into a 10% NaH2PO4 solution (500 mL) and extracted with diethyl ether (300 mL×2). The organic extracts were washed with brine, dried on Na2SO4 and evaporated to dryness. The crude material was taken up with hexane, stirred and filtered to give the title compound (16.8 g, 81.5% yield) as a yellow crystalline solid.

reactant | 2-methoxy-4,4-dimethyl-cyclohex-2-enone | 81.1 mmol, 12.5 g | COC=1C(CCC(C1)(C)C)=O | C9H14O2
reactant | diethyl oxalate | 89.2 mmol, 12.1 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl (3-methoxy-5,5-dimethyl-2-oxocyclohex-3-en-1-yl)(oxo)acetate | 16.8 g, 81.5% yield | COC=1C(C(CC(C1)(C)C)C(C(=O)OCC)=O)=O | C13H18O5
